US08058461B2
6a) 4-(Bromomethyl)-1-methoxyindane
To a solution of 90.0 g (0.40 mol) of 4-bromo-1-methoxyindane in 200 ml of anhydrous THF 166 ml (0.42 mol) 2.5 M solution of nBuLi in hexanes was added dropwise by vigorous stirring at −78° C. This solution was stirred at this temperature for 1 hour, cooled to −100° C., and then 57.9 g (0.80 mol) of DMF was added dropwise to maintain temperature of the reaction mixture below −70° C. Further on, this mixture was stirred at room temperature for 3 hours, and then 15 ml of water was added. The resulting mixture was evaporated to dryness. The residue dried in vacuum was dissolved in a mixture of 600 ml of THF and 300 ml of methanol. To this solution 48.2 g (1.27 mol) of NaBH4 was added in small portions by vigorous stirring at 0° C. This mixture was stirred for 12 hours at room temperature and then evaporated to dryness. The formed alcohol was extracted from a mixture of the residue with 800 ml of water by 2×400 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. The residue was dissolved in 1 liter of THF, and 104 g (0.40 mol) of triphenylphosphine was added. This mixture was stirred for 10 minutes, and then 70.5 g (0.40 mol) of N-bromosuccinimide was added. The resulting mixture was stirred for 30 minutes at room temperature. The product was isolated by flash chromatography on silica gel 60 (40-63 μm, eluent: hexanes and then hexanes-ether=10:1, vol.). Yield 74.7 g (78%) of the title material. Anal. calc. for C11H13BrO: C, 54.79; H, 5.43. Found: C, 54.55; H, 5.54. 1H NMR (CDCl3): δ 7.43 (m, 1H, 7-H), 7.31 (m, 1H, 5-H), 7.27 (m, 1H, 6H), 4.88 (dd, J=6.3 Hz, J=4.0 Hz, 1H, CHOMe), 4.52 (m, 2H, CH2Br), 3.47 (s, 3H, OMe), 3.15 (m, 1H, 3-H), 2.93 (m, 1H, 3′-H), 2.42 (m, 1H, 2-H), 2.19 (m, 1H, 2′-H).

reactant | 4-bromo-1-methoxyindane | 0.40 mol, 90.0 g | BrC1=C2CCC(C2=CC=C1)OC | C10H11BrO
reactant | THF | 0.42 mol, 2.5 M, 200 ml | C1CCOC1 | C4H8O
reactant | nBuLi | [Li]CCCC
reactant | DMF | 0.80 mol, 57.9 g | CN(C)C=O | C3H7NO
reactant | NaBH4 | 1.27 mol, 48.2 g | [BH4-].[Na+]
reactant | triphenylphosphine | 0.40 mol, 104 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.40 mol, 70.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 15 ml | O | H2O
product | 4-(Bromomethyl)-1-methoxyindane | BrCC1=C2CCC(C2=CC=C1)OC | C11H13BrO
